US06916921B2
16 ml diisobutylaluminiumhydride (20% in toluene) were added dropwise to a solution of 920 mg (20S)-3β-hydroxy-4,4,20-trimethyl-pregna-8,14-dien-21-carbonitril in 60 ml toluene at a temperature of −72° C. The mixture was stirred for 2 h at the same temperature, poured into 2N sulfuric acid, extracted with ethyl acetate, washed with 2N sulfuric acid and then washed with a half saturated solution of sodium chloride. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to give 750 mg (20S)-3β-hydroxy-4,4,20-trimethyl-pregna-8,14-dien-21-carbaldehyde as a white solid, which was used without further purification.

reactant | diisobutylaluminiumhydride | 16 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | (20S)-3β-hydroxy-4,4,20-trimethyl-pregna-8,14-dien-21-carbonitril | 920 mg | O[C@@H]1C(C2CCC=3C4=CC[C@H]([C@H](CC#N)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C25H37NO
reactant | sulfuric acid | 2N | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | (20S)-3β-hydroxy-4,4,20-trimethyl-pregna-8,14-dien-21-carbaldehyde | 750 mg | O[C@@H]1C(C2CCC=3C4=CC[C@H]([C@H](CC=O)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C25H38O2
